US04277487
2-[N-(2,6-dichlorophenyl)-N-(2-methyl-1-butene-4-yl)-amino]2-imidazoline
A mixture of 6.9 gm (0.03 mol) of clonidine, 5.6 gm of 4-bromo-2-methyl-1-butene, and 5 ml of triethylamine in 25 ml of toluene was heated for 24 hours at 120° C. After cooling, the solvent was decanted, and the residue remaining was dissolved in 1 N hydrochloric acid. After extraction with ether several times (the ethereal extracts were abandoned), the solution was extracted with ether in fractions at stepwisely rising pH values (alkalizing with 2 N sodium hydroxide solution). The thin-layer chromatographically uniform ether extracts were united and dried over MgSO4, and the ether was evaporated in vacuo.

reactant | clonidine | 0.03 mol, 6.9 gm | C1=CC(=C(C(=C1)Cl)NC2=NCCN2)Cl | C9H9Cl2N3
reactant | 4-bromo-2-methyl-1-butene | 5.6 gm | BrCCC(=C)C | C5H9Br
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[N-(2,6-dichlorophenyl)-N-(2-methyl-1-butene-4-yl)-amino]2-imidazoline | ClC1=C(C(=CC=C1)Cl)N(CCC(=C)C)C=1NCCN1 | C14H17Cl2N3
